US03941883
The mixture of 4.28 g of N-(4-nitro-o-tolyl)-4-methylphthalimide, 200 ml of 95% aqueous ethanol and 0.21 g of 5% palladium on charcoal is hydrogenated at 3.1 atm and 45° until the hydrogen uptake ceases. The resulting suspension is diluted with the minimum amount of dimethylformamide to solubilize the organic material, filtered and evaporated. The residue is taken up in chloroform, the mixture filtered, evaporated and the residue recrystallized from methanol, to yield the N-(4-amino-o-tolyl)-4-methylphthalimide melting at 144°-147°.

reactant | N-(4-nitro-o-tolyl)-4-methylphthalimide | 4.28 g | [N+](=O)([O-])C1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)C)=O | C16H12N2O4
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.21 g | [Pd] | Pd
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-(4-amino-o-tolyl)-4-methylphthalimide | NC1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)C)=O | C16H14N2O2
